US04323691
2,3-Dichloro-4-(4'-hydroxybenzoyl)phenoxy-α-methylacetic acid
A mixture of 19.34 g. of ethyl 2,3-dichloro-4-(4'-methoxybenzoyl)phenoxy-α-methylacetate and 330 ml. of 48% hydrogen bromide was rapidly stirred and refluxed for 211/2 hours. The mixture was cooled in an ice bath and diluted with 415 ml. of water, with stirring. The product was filtered and washed with ice water; m.p. 208°-212°.

reactant | ethyl 2,3-dichloro-4-(4'-methoxybenzoyl)phenoxy-α-methylacetate | ClC1=C(OC(C(=O)OCC)C)C=CC(=C1Cl)C(C1=CC=C(C=C1)OC)=O | C19H18Cl2O5
reactant | hydrogen bromide | Br | BrH
solvent | water | O | H2O
product | 2,3-Dichloro-4-(4'-hydroxybenzoyl)phenoxy-α-methylacetic acid | ClC1=C(OC(C(=O)O)C)C=CC(=C1Cl)C(C1=CC=C(C=C1)O)=O | C16H12Cl2O5
